### PR TITLE
feat(Combinatorics/SimpleGraph): extend a coloring to one more vertex

### PR DESCRIPTION
**Pull request by brianrabern**
Add `Colorable.of_induce_compl_singleton`: if deleting a vertex `v` leaves an `n`-colourable graph and `deg(v) < n`, then `G` itself is `n`-colourable.

This is a local colouring-extension / induction step (colour `G - v`, then assign `v` a free colour). It is useful for inductive arguments such as Brooks' theorem. The global greedy bound `χ ≤ Δ + 1` is developed separately in #38357.

AI assistance: LLM was used to smooth it out and put things in the expected style

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by bocowgill — COMMENTED** [review]
I reviewed the theorem and proof. While I'm not an expert in this area, I did find the greedy-coloring argument correct, and have no additional comments.

**Comment by SnirBroshi** [comment]
> This is the vertex-extension step underlying greedy coloring, and is the ingredient needed to prove the bound `chromaticNumber ≤ maxDegree + 1`.

This lemma could be nice, but note that the bound is proven in #38357, with a more general form of greedy coloring than it seems you're alluding to.

**Comment by brianrabern** [comment]
good point. thanks. I'll update the PR description: this lemma is not meant as a route to `χ ≤ Δ + 1` (that's covered more generally in #38357).

The intended use is as a local induction step: if `G - v` is `n`-colourable and `deg(v) < n`, extend the colouring to `G`. That's the form needed later for inductive arguments such as Brooks, rather than a global greedy colouring.

**Comment by SnirBroshi** [comment]
> That's the form needed later for inductive arguments such as Brooks 

I was hoping my PR would also lead to Brooks, but I haven't thought it through yet

**Comment by brianrabern** [comment]
Brooks needs a Δ-colouring outside the clique / odd-cycle cases, so I expect it still needs a separate structural argument

**Review by bocowgill — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/Coloring/Vertex.lean [hunk 1]
```diff
@@ -298,6 +298,48 @@ theorem Colorable.of_hom {V' : Type*} {G' : SimpleGraph V'} {n : ℕ} (f : G →
...
+  have key : ∀ {q : V}, G.Adj v q → Function.update f v a v ≠ Function.update f v a q := by
+    intro q hq
+    rw [Function.update_self, Function.update_of_ne (G.ne_of_adj hq).symm]
+    intro hc
+    apply ha
+    rw [hc]
+    exact Finset.mem_image_of_mem f ((G.mem_neighborFinset v q).2 hq)
+  have hvalid : ∀ {x y : V}, G.Adj x y →
+      Function.update f v a x ≠ Function.update f v a y := by
+    intro x y hxy
```
Comment (Parcly-Taxel) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/Vertex.lean]: `have` blocks can, to some extent, be written like standalone lemmas without the need for `∀`. Types can also be omitted where inferrable:
```suggestion
  have key {q} (hq : G.Adj v q) : Function.update f v a v ≠ Function.update f v a q := by
    rw [Function.update_self, Function.update_of_ne (G.ne_of_adj hq).symm]
    refine fun hc ↦ ha ?_
    rw [hc]
    exact Finset.mem_image_of_mem f ((G.mem_neighborFinset v q).2 hq)
  have hvalid {x y} (hxy : G.Adj x y) : Function.update f v a x ≠ Function.update f v a y := by
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring/Vertex.lean [hunk 2]
```diff
@@ -298,6 +298,48 @@ theorem Colorable.of_hom {V' : Type*} {G' : SimpleGraph V'} {n : ℕ} (f : G →
...
+theorem Colorable.of_induce_compl_singleton {v : V} [Fintype (G.neighborSet v)]
+    (h : (G.induce {v}ᶜ).Colorable n) (hv : G.degree v < n) : G.Colorable n := by
+  classical
+  obtain ⟨C⟩ := h
+  have : NeZero n := ⟨by lia⟩
+  -- Extend `C` to all of `V`; the color it assigns to `v` itself is irrelevant.
+  obtain ⟨f, hf⟩ : ∃ f : V → Fin n, ∀ (u : V) (hu : u ≠ v),
+      f u = C ⟨u, Set.mem_compl_singleton_iff.2 hu⟩ :=
+    ⟨fun u => if hu : u = v then 0 else C ⟨u, Set.mem_compl_singleton_iff.2 hu⟩,
+      fun _ hu => dif_neg hu⟩
```
Comment (Parcly-Taxel) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/Vertex.lean]: You assert the existence of an object with a certain property, but in proving this existence you explicitly construct the object. In this case it is better to construct first and then prove the property. (This redundancy sometimes plagues LLM-generated Lean code – I remember Aristotle used to have the problem.)
```suggestion
  -- Extend `C` to all of `V`; the color it assigns to `v` itself is irrelevant.
  let f (u) := if hu : u = v then ⟨0, by lia⟩ else C ⟨u, Set.mem_compl_singleton_iff.2 hu⟩
  have hf (u) (hu : u ≠ v) : f u = C ⟨u, Set.mem_compl_singleton_iff.2 hu⟩ := dif_neg hu
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring/Vertex.lean [hunk 3]
```diff
@@ -298,6 +298,48 @@ theorem Colorable.of_hom {V' : Type*} {G' : SimpleGraph V'} {n : ℕ} (f : G →
...
+  -- As `v` has fewer than `n` neighbors, some color `a` is unused on them.
+  obtain ⟨a, ha⟩ : ∃ a, a ∉ (G.neighborFinset v).image f := by
+    have hlt : ((G.neighborFinset v).image f).card < n := by
+      refine lt_of_le_of_lt Finset.card_image_le ?_
+      rwa [card_neighborFinset_eq_degree]
+    obtain ⟨a, ha⟩ : (((G.neighborFinset v).image f)ᶜ).Nonempty := by
+      rw [← Finset.card_pos, Finset.card_compl, Fintype.card_fin]
+      lia
+    exact ⟨a, Finset.mem_compl.1 ha⟩
```
Comment (Parcly-Taxel) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/Vertex.lean]:
```suggestion
  obtain ⟨a, ha⟩ : (((G.neighborFinset v).image f)ᶜ).Nonempty := by
    have hlt : ((G.neighborFinset v).image f).card < n := by
      apply Finset.card_image_le.trans_lt
      rwa [card_neighborFinset_eq_degree]
    rw [← Finset.card_pos, Finset.card_compl, Fintype.card_fin]
    lia
  rw [Finset.mem_compl] at ha
```

**Comment by Parcly-Taxel** [comment]
Actually, the embedded comments and `h`-beginning `have` names make me believe this was at least in part LLM-generated. What LLMs did you use?

**Comment by brianrabern** [comment]
I’ve applied your style suggestions in the latest commit. Thanks. And yes I used some LLMs to help smooth it out and put things in the expected style

**Review by bocowgill — APPROVED** [review]
I rechecked the changes since my earlier approval. The style updates look good.
